US05552404
N-Allylaniline [NMR (200 MHz, DMSO-d6): δ3.68 (t, J=5.2 Hz, 2H); 5.10 (d, J=10.2 Hz, 1H); 5.23 (d, J=17.2 Hz, 1H); 5.78 (br s, 1H); 5.75-5.97 (m, 1H); 6.52 (t, J=7.3 Hz, 2H); 6.56 (d, J=7.8 Hz, 2H); 7.06 (t, J=7.3 Hz, 2H)] was prepared from aniline and allyl bromide via trifluoroacetanilide using the general method described by Hodge (Harland, P.A.; Hodge, P; Maughan, W.; Wildsmith, E. Synthesis, 1984, 941).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | trifluoroacetanilide | FC(C(=O)NC1=CC=CC=C1)(F)F | C8H6F3NO
product | N-Allylaniline | C(C=C)NC1=CC=CC=C1 | C9H11N
